US06166219
N-benzenesulfonyl-4-acetylamino-3-nitrobenzamide (12.67 g) was dissolved in 200 ml of methanol and 30 ml of water, and 7.59 g of potassium hydrogencarbonate were further added thereto. The mixture was hydrogenated in a hydrogen atmosphere using 2.53 g of 5% palladium on carbon as catalyst at 40° C. for 24 hours. The solid material was separated through filtration, and the filtrate was concentrated. The resulting residue was purified through silica-gel column chromatography (eluent: a mixture of ethyl acetate and methanol at a ratio of 4:1) to give 6.72 g of N-benzenesulfonyl-4-acetylamino-3-aminobenzamide.

reactant | N-benzenesulfonyl-4-acetylamino-3-nitrobenzamide | 12.67 g | C1(=CC=CC=C1)S(=O)(=O)NC(C1=CC(=C(C=C1)NC(C)=O)[N+](=O)[O-])=O | C15H13N3O6S
reactant | potassium hydrogencarbonate | 7.59 g | C(O)([O-])=O.[K+]
reactant | hydrogen | [H][H] | H2
solvent | methanol | 200 ml | CO | CH4O
solvent | water | 30 ml | O | H2O
catalyst | palladium on carbon | 2.53 g | [Pd] | Pd
product | N-benzenesulfonyl-4-acetylamino-3-aminobenzamide | 6.72 g | C1(=CC=CC=C1)S(=O)(=O)NC(C1=CC(=C(C=C1)NC(C)=O)N)=O | C15H15N3O4S
